US07459472B2
4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-methoxymethyl-ethyl]-amide (45 mg) was prepared from 1-(3′-Chloro-4′-fluoro-biphenyl-4-ylmethyl)-2-methoxy-ethylamine hydrochloride salt (35 mg, 0.1 mmol) and 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carbonyl chloride (32 mg, 0.1 mmol) in presence of triethyl amine (41 mg, 0.41 mmol) according to the general procedure M.

reactant | 1-(3′-Chloro-4′-fluoro-biphenyl-4-ylmethyl)-2-methoxy-ethylamine hydrochloride salt | 0.1 mmol, 35 mg | Cl.ClC=1C=C(C=CC1F)C1=CC=C(C=C1)CC(COC)N
reactant | 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carbonyl chloride | 0.1 mmol, 32 mg | COC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C15H10ClF3O2
reactant | triethyl amine | 0.41 mmol, 41 mg | C(C)N(CC)CC | C6H15N
product | 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-methoxymethyl-ethyl]-amide | 45 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](COC)NC(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)C(F)(F)F | C31H26ClF4NO3
